US07981903B2
To a degassed solution of naphthalene (14 g, 109 mmol) in THF (300 mL) were added sodium cubes (2.6 g, 108 mmol). The cubes were crushed, and then stirred for 4 h. A total of 60 mL of the resulting deep green solution was added dropwise to a −78° C. solution of 2-fluoro-6-({2-({5-(methyloxy)-1-[(4-methylphenyl)sulfonyl]-2,3-dihydro-1H-indol-6-yl}amino)-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide (3.7 g, 4.99 mmol) in THF (100 mL). Water (5 mL) was then added, the resulting mixture was allowed to warm to rt, and filtered. The filtrate was concentrated onto Celite and purified by silica gel chromatography using 1-10% MeOH (containing 0.2% NH3)/CH2Cl2 to obtain 2-fluoro-6-[(2-{[5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide as a yellow solid (710 mg, 33%). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.88 (t, J=8.33 Hz, 2H), 3.39 (t, J=8.15 Hz, 2H), 3.76 (s, 3H), 5.07 (br s, 1H), 6.24 (s, 1H), 6.83 (s, 1H), 6.89-7.02 (m, 2H), 7.40 (s, 1H), 7.50 (q, J=7.69 Hz, 1H), 7.64 (s, 1H), 8.03 (s, 1H), 8.10 (s, 1H), 8.47 (d, J=8.42 Hz, 1H), 10.46 (s, 1H), 11.39 (s, 1H); ESIMS (M+H)+=434.17.

reactant | naphthalene | 109 mmol, 14 g | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | sodium | [Na] | Na
reactant | 2-fluoro-6-({2-({5-(methyloxy)-1-[(4-methylphenyl)sulfonyl]-2,3-dihydro-1H-indol-6-yl}amino)-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide | 4.99 mmol, 3.7 g | FC1=C(C(=O)N)C(=CC=C1)NC=1C2=C(N=C(N1)NC1=C(C=C3CCN(C3=C1)S(=O)(=O)C1=CC=C(C=C1)C)OC)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C36H32FN7O6S2
reactant | Water | 5 mL | O | H2O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-fluoro-6-[(2-{[5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide | 710 mg, 33% | FC1=C(C(=O)N)C(=CC=C1)NC1=C2C(NC(=N1)NC1=C(C=C3CCNC3=C1)OC)=NC=C2 | C22H20FN7O2
